US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(tetrahydrofur-2-ylmethyloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(tetrahydrofur-2-ylmethyloxy)phenoxy]ethyl}amine hydrochloride.

reactant | 2-[2-(tetrahydrofur-2-ylmethyloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC1OCCC1 | C14H20O6S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(tetrahydrofur-2-ylmethyloxy)phenoxy]ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OCC1OCCC1 | InChI=1S/C25H32N2O3.ClH/c1-25(2,16-19-17-26-22-10-4-3-9-21(19)22)27-13-15-29-23-11-5-6-12-24(23)30-18-20-8-7-14-28-20;/h3-6,9-12,17,20,26-27H,7-8,13-16,18H2,1-2H3;1H
